US06825212B2
Preparation of 2-{2-[3-(Phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine-1-yl]ethyl}-1H-isoindole-1,3(2H)-dione
A solution of 1-(2-chloroethyl)-3-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (3.84 g, 12.0 mmol) in DMF is treated with potassium phthalate (2.78 g, 15.0 mmol, heated at 115° C. for 16 h, cooled to room temperature, diluted with water and extracted with ethyl acetate. The combined extracts are washed with brine, dried over MgSO4 and concentrated in vacuo. The resultant residue is crystallized from CH2Cl2/hexane to afford the title compound as a white solid, 4.54 g, characterized by HNMR analysis.

reactant | 1-(2-chloroethyl)-3-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 12.0 mmol, 3.84 g | ClCCN1C=C(C=2C1=NC=CC2)S(=O)(=O)C2=CC=CC=C2 | C15H13ClN2O2S
reactant | potassium phthalate | C(C=1C(C(=O)[O-])=CC=CC1)(=O)[O-].[K+].[K+]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-{2-[3-(Phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine-1-yl]ethyl}-1H-isoindole-1,3(2H)-dione | C1(=CC=CC=C1)S(=O)(=O)C1=CN(C2=NC=CC=C21)CCN2C(C1=CC=CC=C1C2=O)=O | C23H17N3O4S
